US04424396
A mixture of 80 parts of p-fluorobenzotrifluoride, 114 parts of valine, 135 parts of potassium carbonate, 65 parts of tetra(n-butyl)ammonium iodide, and 630 parts of sulfolane was placed in a pressure reactor. The reactor was degassed, placed under an argon atmosphere, sealed, and then heated and maintained at about 140° C. for about 18 hours. Analysis of the reaction product indicated 53.0% yield of 2-(4-trifluoromethylphenylamino)-3-methylbutanoic acid, based on p-fluorobenzotrifluoride starting materials.

reactant | p-fluorobenzotrifluoride | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | valine | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
catalyst | tetra(n-butyl)ammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(4-trifluoromethylphenylamino)-3-methylbutanoic acid | 53.0% yield | FC(C1=CC=C(C=C1)NC(C(=O)O)C(C)C)(F)F | C12H14F3NO2
